US06825170B2
(2E)-3-(8-Quinolinyl)-2-propenal
The title compound was prepared by a procedure analogous to Reference Example 30 by substituting 8-quinolinecarboxaldehyde (prepared as described in J. Am. Chem. Soc. 1997, 119, 8891) for the 4-(1H-pyrazol-1-yl)-benzaldehyde of Reference Example 30. MS 184 (M+H)+.

reactant | 8-quinolinecarboxaldehyde | N1=CC=CC2=CC=CC(=C12)C=O | C10H7NO
reactant | 4-(1H-pyrazol-1-yl)-benzaldehyde | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
product | (2E)-3-(8-Quinolinyl)-2-propenal | N1=CC=CC2=CC=CC(=C12)/C=C/C=O | C12H9NO
